US05399654
A mixture of anhydrous ethylether and dried magnesium 5 g was put in a reaction vessel, into which a solution of parabromofluorobezene 35 g dissolved in anhydrous ethylether 50 ml subsequently was added slowly to prepare a Grignard reagent. Into this Grignard reagent, a solution of dichlorophenylphosphine oxide 19.5 g dissolved in anhydrous ethylether was added for a reaction. After performing the reaction, the solution was washed with distilled water and moisture was removed therefrom with a drying agent. Thereafter, the resulting solution was concentrated under a reduced pressure and was vacuum-distilled to give 25.77 g of bis(4-fluorophenyl)phenylphosphine oxide, which was then subjected to the treatment of infrared spectrum analysis and NMR spectrum analysis to insure the existence of P=O and --P--C6H4 -- groups therein.

reactant | magnesium | 5 g | [Mg] | Mg
reactant | parabromofluorobezene | 35 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | dichlorophenylphosphine oxide | 19.5 g | ClP(C1=CC=CC=C1)(Cl)=O | C6H5Cl2OP
solvent | ethylether | 50 ml | C(C)OCC | C4H10O
product | bis(4-fluorophenyl)phenylphosphine oxide | 25.77 g | FC1=CC=C(C=C1)P(C1=CC=CC=C1)(C1=CC=C(C=C1)F)=O | C18H13F2OP
